US04617150
To a solution, stirred at room temperature, of 0.9 g (5.4 mmol) of 3,4-dimethoxybenzylamine in 100 ml of methylene chloride are added 3 g of molecular sieve 4 Å and after 20 minutes 0.7 g (5.4 mmol) of isopropylidene-L-glyceraldehyde and 5 g of anhydrous magnesium sulphate. The mixture is subsequently stirred at room temperature for 1 hour. The resulting organic solution of isopropylidene-L-glyceraldehyde (3,4-dimethoxybenzyl)imine is cooled to -20° under argon and treated while stirring with 0.88 ml (5.4 mmol) of triethylamine. Then, a solution of 1.25 g (5.6 mmol) of phthaloylglycyl chloride in 20 ml of dry methylene chloride is added dropwise thereto within 1 hour and the mixture is subsequently stirred overnight at room temperature. The mixture is worked-up as described in Example 1 and there are obtained after chromatography 1.56 g (62%) of N-(3S,4S)-cis-1-(3,4-dimethoxybenzyl)-4-[(R)-2,2-dimethyl-1,3-dioxolan-4-yl]-2-oxo-3-azetidinyl]phthalimide as a foam; [α ]D =+16.2° (c=1.0 in methanol); MS: 466 (M+).

reactant | 3,4-dimethoxybenzylamine | 5.4 mmol, 0.9 g | COC=1C=C(CN)C=CC1OC | C9H13NO2
reactant | isopropylidene-L-glyceraldehyde | 5.4 mmol, 0.7 g | C(C)(C)=C([C@@H](C=O)O)O | C6H10O3
reactant | magnesium sulphate | 5 g | S(=O)(=O)([O-])[O-].[Mg+2]
reactant | isopropylidene-L-glyceraldehyde (3,4-dimethoxybenzyl)imine | COC=1C=C(CN=C[C@@H](O)C(O)=C(C)C)C=CC1OC | C15H21NO4
reactant | triethylamine | 5.4 mmol, 0.88 ml | C(C)N(CC)CC | C6H15N
solvent | methylene chloride | 100 ml | C(Cl)Cl | CH2Cl2
solvent | methylene chloride | 20 ml | C(Cl)Cl | CH2Cl2
product | phthalimide | C1(C=2C(C(N1)=O)=CC=CC2)=O | C8H5NO2
